US07091220B2
[(2,3-Dichloro-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methylindole and (2,3-dichloro-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 2,3-dichloro-benzaldehyde and dimethylamine.

reactant | 1-methylindole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | (2,3-dichloro-benzylidene)-dimethyl-ammonium chloride | [Cl-].ClC1=C(C=[N+](C)C)C=CC=C1Cl
reactant | 2,3-dichloro-benzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | dimethylamine | CNC | C2H7N
product | [(2,3-Dichloro-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine | ClC1=C(C=CC=C1Cl)C(C1=CN(C2=CC=CC=C12)C)N(C)C | C18H18Cl2N2
